US08389511B2
tert-Butyl (3R)-3-[{[4-(4-cyclopropylbutyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate
N-Nitroso-N-methylurea (2.62 g) was dissolved in diethyl ether (34 ml), and the mixture was added dropwise into a solution of potassium hydroxide (1.53 g) in water (9 ml) under ice-cooling, and the mixture was stirred at 0° C. for 15 minutes. Then, the obtained supernatant was added dropwise to a solution of tert-butyl (3R)-3-[[(4-hex-5-en-1-yl-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl](isopropyl)amino]piperidine-1-carboxylate (300 mg) with palladium acetate (15 mg) in a mixed solvent of chloroform/diethyl ether. The mixture was stirred at room temperature for one hour. After the reaction was complete, the mixture was filtered and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give the title compound (250 mg) as a colorless liquid.

reactant | N-Nitroso-N-methylurea | 2.62 g | N(=O)N(C(=O)N)C | C2H5N3O2
reactant | potassium hydroxide | 1.53 g | [OH-].[K+]
reactant | tert-butyl (3R)-3-[[(4-hex-5-en-1-yl-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)carbonyl](isopropyl)amino]piperidine-1-carboxylate | 300 mg | C(CCCC=C)N1C(C(OC2=C1C=C(C(=C2)C)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)C)=O | C31H47N3O5
reactant | chloroform diethyl ether | C(Cl)(Cl)Cl.C(C)OCC
solvent | diethyl ether | 34 ml | C(C)OCC | C4H10O
solvent | water | 9 ml | O | H2O
catalyst | palladium acetate | 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-Butyl (3R)-3-[{[4-(4-cyclopropylbutyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 250 mg | C1(CC1)CCCCN1C(C(OC2=C1C=C(C(=C2)C)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)C)=O | C32H49N3O5
